US05538940
A solution of 5 g (18 mmol) of methyl 2-(3-methylphenoxy)benzoylacetate in 30 ml of hexamethylphosphoric triamide (HMPT) is added dropwise to a suspension of 500 mg (21 mmol) of sodium hydride in 20 ml of HMPT, and the mixture is stirred until evolution of gas ceases. Then 2.5 g (20 mmol) of dimethyl sulfate are added dropwise, the mixture is stirred for 30 min, and then 30 ml of concentrated ammonia solution are added. The mixture is poured into water and extracted with MTB ether. The organic phase is dried and concentrated. Chromatography of the residue on silica gel with hexane/MTB ether yields in the first fractions 1.2 g (22%) of methyl (E)-β-methoxy-2-(3-methylphenoxy)cinnamate (trans product) as yellow oil.

reactant | methyl 2-(3-methylphenoxy)benzoylacetate | 18 mmol, 5 g | CC=1C=C(OC2=C(C(=O)CC(=O)OC)C=CC=C2)C=CC1 | C17H16O4
reactant | sodium hydride | 21 mmol, 500 mg | [H-].[Na+]
reactant | dimethyl sulfate | 20 mmol, 2.5 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ammonia | 30 ml | N | H3N
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | HMPT | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | water | O | H2O
product | methyl (E)-β-methoxy-2-(3-methylphenoxy)cinnamate | 1.2 g, 22% | CO/C(=C/C(=O)OC)/C1=C(C=CC=C1)OC1=CC(=CC=C1)C | C18H18O4
